US09353083B2
2.8 g (9.0 mmol) of tert-butyl 3-cyclopropylmethoxy-3-o-tolylazetidine-1-carboxylate are placed in 40 ml of a 3M solution of hydrogen chloride in ethyl acetate and are stirred at room temperature for 1 hour 30 minutes. The reaction medium is concentrated under a stream of nitrogen and then taken up in a 50/50 heptane/ethyl acetate mixture and concentrated under vacuum. 2.2 g (96%) of 3-cyclopropylmethoxy-3-o-tolylazetidine hydrochloride are obtained in the form of a beige-coloured solid.

reactant | tert-butyl 3-cyclopropylmethoxy-3-o-tolylazetidine-1-carboxylate | 9.0 mmol, 2.8 g | C1(CC1)COC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C19H27NO3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-cyclopropylmethoxy-3-o-tolylazetidine hydrochloride | 2.2 g, 96% | Cl.C1(CC1)COC1(CNC1)C1=C(C=CC=C1)C | InChI=1S/C14H19NO.ClH/c1-11-4-2-3-5-13(11)14(9-15-10-14)16-8-12-6-7-12;/h2-5,12,15H,6-10H2,1H3;1H
